US07615549B2
(b) 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one
1.8 g (7.7 mmol) 1-(3-fluoro-4-nitro-phenyl)-1H-pyridin-2-one are dissolved in 360 ml of ethanol, combined with 8.7 g (38.4 mmol) tin(II)chloride-hydrate and refluxed for 45 min. The mixture is cooled and concentrated to dryness. The residue is combined with equal amounts of 1N sodium hydroxide solution and ethyl acetate. The precipitate is filtered off, water is added to the filtrate, the organic phase is separated off and the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated to dryness.

reactant | 1-(3-fluoro-4-nitro-phenyl)-1H-pyridin-2-one | 7.7 mmol, 1.8 g | FC=1C=C(C=CC1[N+](=O)[O-])N1C(C=CC=C1)=O | C11H7FN2O3
reactant | tin(II)chloride-hydrate | 38.4 mmol, 8.7 g | O.[Sn](Cl)Cl
solvent | ethanol | 360 ml | C(C)O | C2H6O
product | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
